US07456164B2
Intermediate 95: (3-Nitro-pyridin-4-yl)-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-amine
To a stirred solution of {4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (390 mg, 1.2 mmol) in acetonitrile (˜5 mL), was added Hunig's base (230 μL, 1.35 mmol, 1.1 eq.) and 4-ethoxy-3-nitropyridine hydrogen chloride (250 mg, 1.2 mmol, 1 eq.) and the mixture stirred at reflux for 72 hours. To this a further portion of 4-ethoxy-3-nitropyridine hydrogen chloride (50 mg, 0.24 mmol, 0.2 eq.) was added and the mixture stirred at reflux for a further 24 hours. The reaction mixture was then concentrated in vacuo to give a dark yellow oily residue. This was partitioned between 2M NaOH (30 mL) and DCM (2×30 mL). The organics were combined, dried over sodium sulphate, filtered and concentrated in vacuo to give a dark yellow oil. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (98:2:0.2 to 90:10:1, by volume) to provide the title compound (205 mg, 38%). HRMS ESI+ m/z 441.2486 [MH]+.

reactant | {4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 1.2 mmol, 390 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | Hunig's base | 1.35 mmol, 230 μL, 1.1 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-ethoxy-3-nitropyridine hydrogen chloride | 1.2 mmol, 250 mg, 1 eq. | Cl.C(C)OC1=C(C=NC=C1)[N+](=O)[O-]
reactant | 4-ethoxy-3-nitropyridine hydrogen chloride | 0.24 mmol, 50 mg, 0.2 eq. | Cl.C(C)OC1=C(C=NC=C1)[N+](=O)[O-]
solvent | acetonitrile | ˜5 mL | C(C)#N | C2H3N
product | (3-Nitro-pyridin-4-yl)-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-amine | 205 mg, 38% | [N+](=O)([O-])C=1C=NC=CC1NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C24H32N4O4
